US07576094B2
A mixture of 2,3-dimethyl-1,4-dihydroquinone (5 g) and benzyl bromide (6.2 g) and K2CO3 (10 g) in DMF (50 mL) was stirred at 120° C. for 5 h. The mixture was poured into water and extracted with EtOAc. The EtOAc was washed with water, dried and evaporated. The residue was purified by silica gel column eluting with 10% EtOAc in hexane to give 3.2 g of 4-benzyloxy-2,3-dimethyl-phenol as a pale solid.

reactant | benzyl bromide | 6.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-benzyloxy-2,3-dimethyl-phenol | 3.2 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)O)C)C | C15H16O2
